US07834034B2
Dehydration/Saponification; 6-[Fluoro-(5-phenyl-[1,3,4]oxadiazol-2-yl)-methyl]-benzo[b]thiophene-2-carboxylic acid. A solution of ethyl 6-[2-(2-benzoylhydrazino)-1-fluoro-2-oxoethyl]-1-benzothiophene-2-carboxylate (51 mg, 0.13 mmol) in THF (2.0 mL) was treated with Burgess reagent (45 mg, 0.19 mmol). The reaction vessel was sealed and heated to 120° C. in the microwave reactor for 20 minutes. The reaction was evaporated in vacuo and purified by flash chromatography (10-40% ethyl acetate/hexanes) to give ethyl 6-[fluoro(5-phenyl-1,3,4-oxadiazol-2-yl)methyl]-1-benzothiophene-2-carboxylate as a white solid. ESIMS calcd 383.1 (M++H), found 383.0 (M++H). To a solution of ethyl 6-[fluoro(5-phenyl-1,3,4-oxadiazol-2-yl)methyl]-1-benzothiophene-2-carboxylate in THF (2.5 mL) was added 1M sodium hydroxide (5.0 mL, 5.0 mmol) and the resulting solution was stirred at ambient temperature for 1 hour. The reaction was partitioned between ethyl acetate and 1M HCl solution. The organics were dried over sodium sulfate, filtered and evaporated to give 6-[fluoro(5-phenyl-1,3,4-oxadiazol-2-yl)methyl]-1-benzothiophene-2-carboxylic acid as a white solid. ESIMS calcd 355.1 (M++H), found 355.0 (M++H).

reactant | ethyl 6-[fluoro(5-phenyl-1,3,4-oxadiazol-2-yl)methyl]-1-benzothiophene-2-carboxylate | FC(C1=CC2=C(C=C(S2)C(=O)OCC)C=C1)C=1OC(=NN1)C1=CC=CC=C1 | C20H15FN2O3S
reactant | sodium hydroxide | 5.0 mmol, 1M, 5.0 mL | [OH-].[Na+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 6-[fluoro(5-phenyl-1,3,4-oxadiazol-2-yl)methyl]-1-benzothiophene-2-carboxylic acid | FC(C1=CC2=C(C=C(S2)C(=O)O)C=C1)C=1OC(=NN1)C1=CC=CC=C1 | C18H11FN2O3S
